US07091220B2
3-(Dimethylaminophenylmethyl)-1H-indole-6-carboxylic Acid
The preparation was carried out in accordance with general synthesis instructions 4 from 1H-indole-6-carboxylic acid and benzylidene-dimethyl-ammonium chloride, which had been prepared in accordance with example 1.

reactant | 1H-indole-6-carboxylic acid | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | benzylidene-dimethyl-ammonium chloride | [Cl-].C(C1=CC=CC=C1)=[N+](C)C
product | 3-(Dimethylaminophenylmethyl)-1H-indole-6-carboxylic Acid | CN(C)C(C1=CNC2=CC(=CC=C12)C(=O)O)C1=CC=CC=C1 | C18H18N2O2
